US07488747B2
Synthesis of 3-Methyl-4-phenylbutan-2-one (59)
1.4 M Methyl lithium (34.8 mL, 48.72 mmol) was added over 70 min to a stirring 0° C. solution of α-methylhydrocinnamic acid (4.0019 g, 24.36 mmol) in dry Et2O (122 mL, 0.2 M): The ice bath was removed, and the reaction was allowed to stir at room temperature for 2 additional hours. The reaction was the poured into rapidly stirring ice water containing aq. HCl. The organic layer was removed, washed with NaHCO3 and brine, then dried with Na2SO4, filtered, concentrated, and purified by silica gel chromatography (Combiflash column, 95:5 Hexanes: EtOAc) to achieve pure 59 (2.3038 g, 58.3%): 1H (CDCl3, 400 MHz): δ 7.28 (2H, t, J=7.3 Hz), 7.20 (1H, t, J=7.3 Hz), 7.16 (2H, d, J=7.3 Hz), 3.00 (1H, dd, J=13.7, 6.8 Hz), 2.83 (1H, app sex, 7.0 Hz), 2.56 (1H, dd, J=13.7, 7.8 Hz), 2.08 (3H, s), 1.09 (3H, d, J=6.8 Hz) ppm. 13C (CDCl3, 100 MHz): δ 211.99, 139.53, 128.79, 128.28, 126.10, 48.65, 38.75, 28.74, 16.10 ppm. DEPT (CDCl3, 100 MHz): CH3 carbons: 28.74, 16.10; CH2 carbons: 38.75; CH carbons: 128.79, 128.28, 126.10, 48.65 ppm. HPLC: 10.229 min. (Note: SM has HPLC retention time of 9.225 min.)

reactant | Methyl lithium | 48.72 mmol, 1.4 M, 34.8 mL | C[Li]
reactant | α-methylhydrocinnamic acid | 24.36 mmol, 4.0019 g | CC(C(=O)O)CC1=CC=CC=C1 | C10H12O2
solvent | Et2O | 0.2 M, 122 mL | CCOCC | C4H10O
product | 3-Methyl-4-phenylbutan-2-one | CC(C(C)=O)CC1=CC=CC=C1 | C11H14O
